US04486428
2-[8-Acetoxy-3,3-dimethyl-6-(5-phenyl-2-pentyloxy)tetralin-1-yl]acetic acid
To a solution of sodium methoxide prepared from 0.2 g. sodium metal and 32 ml. methanol is added a solution of 0.20 g. (0.53 mmole) of the lactone of 2-[8-hydroxy-3,3-dimethyl-6-(5-phenyl-2-pentyloxy)tetralin-1-yl]acetic acid and the mixture is stirred for 30 minutes. The methanol is evaporated in vacuo, the residue is cooled in ice and a cold solution of 6.4 ml. acetyl chloride in 12.8 ml. ethyl acetate is added and the resulting mixture stirred 15 minutes. The mixture is concentrated to dryness in vacuo, the residue taken up in fresh ethyl acetate, washed with water, brine and dried (MgSO4) to yield 0.30 g. yellow oil. The oil is purified on a silica gel column using mixtures of methylene chloride and methanol as eluant to afford 110 mg. (47%) of title compound. 1H-NMR (CDCl3) ppm (delta): 0.8 (s, 3H), 1.03 (s, 3H), 1.23 (d, 4H), 1.7 (m, 6H), 2.3 (s, 3H), 2.5 (m, 4H), 2.9 (m, 1H), 3.13 (m, 1H), 4.2 (m, 1H), 6.4 (s, 2H), 7.13 (s, 5H).

reactant | sodium methoxide | C[O-].[Na+]
reactant | sodium | [Na] | Na
reactant | 2-[8-hydroxy-3,3-dimethyl-6-(5-phenyl-2-pentyloxy)tetralin-1-yl]acetic acid | OC=1C=C(C=C2CC(CC(C12)CC(=O)O)(C)C)OC(C)CCCC1=CC=CC=C1 | C25H32O4
reactant | methanol | CO | CH4O
product | 2-[8-Acetoxy-3,3-dimethyl-6-(5-phenyl-2-pentyloxy)tetralin-1-yl]acetic acid | 47% | C(C)(=O)OC=1C=C(C=C2CC(CC(C12)CC(=O)O)(C)C)OC(C)CCCC1=CC=CC=C1 | C27H34O5
